US05767132
Analogously to Example 7 a solution of 2.3 g sodium 1-naphtholate and 2.9 g N-2-chloroethyl-N-[5-(4-fluorophenyl-3-pyridylmethyl)-amine [obtainable by reaction of 2-hydroxyethylamine with 3-chloromethyl-5-(4-fluorophenyl)-pyridine and subsequent transformation of the product to the 2-chloroethyl-compound by reaction with PCl3 ] in 200 ml of acetonitrile is stirred for 5 hours at room temperature and worked up in a conventional manner to give N-[2(1-naphthyloxy)-ethyl]-N-[5-(4-fluorophenyl)-3-pyridylmethyl]-amine, m.p. 92°-94°.

reactant | sodium 1-naphtholate | 2.3 g | C1(=CC=CC2=CC=CC=C12)[O-].[Na+]
reactant | 2-hydroxyethylamine | OCCN | C2H7NO
reactant | 3-chloromethyl-5-(4-fluorophenyl)-pyridine | ClCC=1C=NC=C(C1)C1=CC=C(C=C1)F | C12H9ClFN
reactant | PCl3 | P(Cl)(Cl)Cl | Cl3P
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | N-[2(1-naphthyloxy)-ethyl]-N-[5-(4-fluorophenyl)-3-pyridylmethyl]-amine | C1(=CC=CC2=CC=CC=C12)OCCNCC=1C=NC=C(C1)C1=CC=C(C=C1)F | C24H21FN2O
